US08030497B2
Preparation of the Starting Material 5-fluoro-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole
To a solution of 400 mg (0.98 mmol) 5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole in 3 ml dry THF, n-BuLi (0.740 ml, 1.18 mmol) is added slowly at −78° C. After stirring for 45 min. at −78° C. N-fluoro-bis(phenylsulfonyl)amine (568.7 mg, 1.77 mmol) is added. Stirring at −78° C. is continued for another hour and then the reaction mixture is warmed to room temperature. After that the reaction mixture is poured on water and extracted (3×) with ethyl acetate. The combined organic layers are washed with water (3×) and brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel (hexane:EtOAc=2:1−>1:1) to afford 40 mg of the title compound as a colorless oil.

reactant | 5-bromo-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 0.98 mmol, 400 mg | BrC1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC | C20H23BrN2O2
reactant | n-BuLi | 1.18 mmol, 0.740 ml | [Li]CCCC
reactant | N-fluoro-bis(phenylsulfonyl)amine | 1.77 mmol, 568.7 mg | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-fluoro-2-(4-isopropyl-phenyl)-7-methoxy-1-(2-methoxy-ethyl)-1H-benzoimidazole | 40 mg | FC1=CC2=C(N(C(=N2)C2=CC=C(C=C2)C(C)C)CCOC)C(=C1)OC | C20H23FN2O2
